US06359145B1
To an ice cooled solution of 1-[1-(tert-butyldimethylsilyloxy)-4-(4-methylphenyl)-2-butyl]imidazole-4-carboxamide (obtained in Example 3(4))(194 mg, 0.50 mmol) in THF (5 ml) was added dropwise 1.0 M Bu4NF in THF (1.0 ml). After the addition was completed, the reaction mixture was stirred at ice-bath temperature for 1 h. 25% AcONH4 (4 ml) was added, and the resulting mixture was stirred for several minutes and then extracted with chloroform. The organic layer was washed with brine, dried (sodium sulfate) and concentrated in vacuo. The residue was purified by silica gel (5 g) column chromatography eluting with chloroform/methanol (20:1) to give 1-[1-hydroxy-4-(4-methylphenyl)-2-butyl]imidazole-4-carboxamide (44.9 mg, 32.9%) as a white solid.

reactant | 1-[1-(tert-butyldimethylsilyloxy)-4-(4-methylphenyl)-2-butyl]imidazole-4-carboxamide | 0.50 mmol, 194 mg | [Si](C)(C)(C(C)(C)C)OCC(CCC1=CC=C(C=C1)C)N1C=NC(=C1)C(=O)N | C21H33N3O2Si
reactant | Bu4NF | 1.0 M | [N+](CCCC)(CCCC)(CCCC)CCCC.[F-]
reactant | AcONH4 | 4 ml | C(=O)(C)[O-].[NH4+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 1.0 ml | C1CCOC1 | C4H8O
product | 1-[1-hydroxy-4-(4-methylphenyl)-2-butyl]imidazole-4-carboxamide | 44.9 mg, 32.9% | OCC(CCC1=CC=C(C=C1)C)N1C=NC(=C1)C(=O)N | C15H19N3O2
